US08664401B2
Step A) 2-(4-bromo-3-fluorophenoxy)tetrahydro-2H-pyran
Pyridinium p-toluene sulfonic acid (789 mg, 3.1 mmol) was added to a solution of 4-bromo-3-fluorophenol (4.00 g, 20.9 mmol) and 3,4-dihydro-2H-pyran (3.52 g, 41.9 mmol) in dichloromethane (105 mL, 0.2M). After 2 h the reaction was quenched with saturated aqueous sodium bicarbonate and the layers were separated. The aqueous layer was extracted with dichloromethane (2×). The organic layers were combined, dried (Na2SO4), filtered and concentrated to give a colorless oil. The material was loaded onto a 25 g silica guard column and run on a 330 g column with 0-5% EtOAc in heptane. Desired material was concentrated down yielding 1900 mg (33%) of a clear colorless oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.56-1.77 (m, 3H) 1.82-1.89 (m, 2H) 1.89-2.07 (m, 1H) 3.62 (m, J=11.37, 4.07, 4.07, 1.37 Hz, 1H) 3.85 (ddd, J=11.32, 10.05, 3.02 Hz, 1H) 5.38 (dd, J=3.12 Hz, 1H) 6.76 (ddd, J=8.88, 2.73, 1.07 Hz, 1H) 6.89 (dd, J=10.34, 2.73 Hz, 1H) 7.35-7.46 (m, 1H).

reactant | Pyridinium p-toluene sulfonic acid | 3.1 mmol, 789 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
reactant | 4-bromo-3-fluorophenol | 20.9 mmol, 4.00 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | 3,4-dihydro-2H-pyran | 41.9 mmol, 3.52 g | O1CCCC=C1 | C5H8O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 0.2M, 105 mL | ClCCl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
product | 2-(4-bromo-3-fluorophenoxy)tetrahydro-2H-pyran | 1900 mg, 33% | BrC1=C(C=C(OC2OCCCC2)C=C1)F | C11H12BrFO2
